### PR TITLE
Prove `invokeSchedControl_ConfigureFlags_ccorres`

### PR DESCRIPTION
**Pull request by michaelmcinerney**
Please see the commit messages.

Test with https://github.com/seL4/seL4/pull/1423

### CODE REVIEW

File: proof/refine/RISCV64/KHeap_R.thy [hunk 1]
```diff
@@ -4398,6 +4398,22 @@ lemma no_fail_updateSchedContext[wp]:
...
+  apply (simp add: updateSchedContext_def)
+  apply (wpsimp wp: set_sc'.obj_at')
+  apply (clarsimp split: if_splits simp: obj_at'_real_def ko_wp_at'_def)
+  done
+
+lemma updateSchedContext_sc_obj_at'_inv:
+  "(\<And>sc. P (f sc) = P sc) \<Longrightarrow> updateSchedContext scPtr f \<lbrace>\<lambda>s. Q (obj_at' P scPtr' s)\<rbrace>"
+  unfolding updateSchedContext_def
+  apply (wpsimp wp: set_sc'.obj_at')
+  by (clarsimp split: if_splits simp: obj_at'_real_def ko_wp_at'_def)
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/KHeap_R.thy:4415]: if you're using by on a two-liner, make it a single `by ... ...`

**Review by lsf37 — APPROVED** [review]
Looks good. I agree with Raf's suggestion for the small `by` tweak.

File: proof/crefine/RISCV64/SchedContext_C.thy [hunk 2]
```diff
@@ -584,11 +584,251 @@ lemma schedContext_updateConsumed_ccorres:
...
+                  apply clarsimp
+                  apply (rule ccorres_cond_false)
+                  apply ccorres_rewrite
+                  apply (rule ccorres_cond_true)
+                  apply (ctac add: rescheduleRequired_ccorres)
+                 apply (clarsimp simp: when_def to_bool_def)
+                 apply (rule_tac Q="\<lambda>s. ctPtr = ksCurThread s" in ccorres_cond_both'[where Q'=\<top>])
+                   apply (clarsimp dest!: rf_sr_ksCurThread simp: option_to_ctcb_ptr_def)
+                  (* the target sc is not associated with the current thread, but is associated
+                     with a runnable thread, so we perform possibleSwitchTo *)
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/SchedContext_C.thy:724]: comment on commentary: this "so we perform" is both novel and kind of long-winded, could I suggest that we go back to calling or invoking functions? i.e. "the target is [...], call possibleSwitchTo"
(same for other occurrences)

File: proof/crefine/RISCV64/SchedContext_C.thy [hunk 3]
```diff
@@ -584,11 +584,251 @@ lemma schedContext_updateConsumed_ccorres:
...
+           apply clarsimp
+           apply ccorres_rewrite
+           apply (rule ccorres_cond_seq)
+           apply (rule ccorres_cond_false)
+           apply ccorres_rewrite
+           apply (rule ccorres_cond_seq)
+           apply (rule ccorres_cond_false)
+           apply ccorres_rewrite
+           apply (rule ccorres_cond_false)
+           apply (ctac (no_vcg) add: refill_new_ccorres)
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/SchedContext_C.thy:690]: little bit confused here; I'm only seeing one ccorres_cases above, we're in the not active case, but you're clearing out a bunch of branches (and they're not clearing up by themselves either, it's quite forceful) - can you say what's happening here?

**Review by Xaphiosis — APPROVED** [review]
Proofs look good. For the history, I'd prefer the "do everything" commit that changes spec+proofs to say something about what's going on: there's a fix for a spec bug in there, and an actual spec change, but no info on what happened or why.

File: proof/crefine/RISCV64/SchedContext_C.thy (hunk 2 above)
Comment (Xaphiosis) [reply proof/crefine/RISCV64/SchedContext_C.thy:724]: to be fair, in the context of seL4, we do "perform" invocations, but we shouldn't extend that to everything

File: proof/crefine/RISCV64/SchedContext_C.thy (hunk 3 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/SchedContext_C.thy:690]: Yes, in the case that the sched context is not active, we will perform `refill_new`. But the Simpl will just use the variable `ret_int_'` to keep track of the truth value of the guards that it uses. So when the sc is not active, it assigns `0` to `ret_int_'`, and then it will take the false branch of every conditional until we eventually get to `refill_new`

Comment (Xaphiosis) [reply proof/crefine/RISCV64/SchedContext_C.thy:690]: right, but that's why I'm surprised... it sounds like simp, ccorres_rewrite, simp, ccorres_rewrite, etc, since it never takes the branches, but you're doing explicit ccorres_rewrite_cond_false which defers showing that it's false until later

Comment (michaelmcinerney) [reply proof/crefine/RISCV64/SchedContext_C.thy:690]: Sorry, is `ccorres_rewrite_cond_false` a rule? If so, I can't find it. I'm not sure how else this can be handled. I really do not like the way that the CParser handles these sorts of `if` statements and uses local variables to determine the guards. If there is a nicer way, please let me know.

Comment (Xaphiosis) [reply proof/crefine/RISCV64/SchedContext_C.thy:690]: Apologies, that's a typo by me, I meant the `ccorres_cond_false` rule you're using. What I'm trying to get at is that if we know the return for the first ret_int, we can csymbr that, and we end up with something in the next IF branch condition. If we simp that, it should boil down to the empty set, which we can discard with ccorres_rewrite. So my mind is seeing some kind of a `csymbr, simp, ccorres_rewrite` that will clear up the branches. It's ok to do it the way you did, but it is surprising to be deferring these IF conditions 'til later when they seem obvious in the current context.
